US08030334B2
(a) N-(4-Fluoro-phenyl)-N′-[1-pyridin-3-yl-eth-(Z)-ylidene]-hydrazine
3-Acetylpyridine (5.00 g, 40.45 mmol) and 4-fluorophenylhydrazine hydrochloride (6.44 g, 38.43 mmol) are suspended in ethanol (70 mL) and heated to reflux. After 1 h, HCl (4M in dioxane, 150 mL, 600 mmol) is added and the mixture is heated to reflux for 16 h. The mixture is concentrated in vacuo and taken up in a little ethanol. The solid is filtered off and washed with ethanol to give a yellow solid. The filtrate is concentrated to dryness. The resulting solid is washed with small amounts of ice-cold ethanol and filtered off. The two fractions are combined and used in the next step without further purification.

reactant | 3-Acetylpyridine | 40.45 mmol, 5.00 g | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | 4-fluorophenylhydrazine hydrochloride | 38.43 mmol, 6.44 g | Cl.FC1=CC=C(C=C1)NN
reactant | HCl | 600 mmol, 4M, 150 mL | Cl | ClH
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | N-(4-Fluoro-phenyl)-N′-[1-pyridin-3-yl-eth-(Z)-ylidene]-hydrazine | FC1=CC=C(C=C1)N\N=C(\C)/C=1C=NC=CC1 | C13H12FN3
